US08487155B2
Preparation of the Tert-Butyl Fluoride/n-Pentane Stock Solution
500 mL of cold n-pentane kept at 0° C. was poured in a glass graduated cylinder. To the n-pentane was added 2.3 mL of tert-butyl fluoride also kept at 0° C. The resulting solution was thoroughly mixed and analyzed by CAP-GC by the CGSB method for gasoline. The concentration of the tert-butyl fluoride was found to be 0.43 wt %. The solution was kept in the refrigerator at 0° C.

reactant | tert-butyl fluoride | 2.3 mL | C(C)(C)(C)F | C4H9F
reactant | n-pentane | CCCCC | C5H12
reactant | n-pentane | 500 mL | CCCCC | C5H12
product | Tert-Butyl Fluoride n-Pentane | C(C)(C)(C)F.CCCCC | InChI=1S/C5H12.C4H9F/c1-3-5-4-2;1-4(2,3)5/h3-5H2,1-2H3;1-3H3
